US05187006
N-allyl-N-dimethoxyethyl amine (30% aqueous, 48.3 grams, 0.10 mole) was added to a glass reaction vessel fitted with a mechanical agitator. The agitator was started and sodium hydroxide (4.44 grams, 0.11 mole) was dissolved in the aqueous amine. Toluene (50 grams) was added and the mixture cooled to 0° to 5° C. Acetyl chloride (8.24 grams, 0.105 mole) was added over 10 minutes while maintaining the temperature below 5° C. The reaction mixture was stirred for 30 minutes at 5° C., agitation was stopped, and the mixture allowed to phase separate. The aqueous layer was discarded. Toluene was removed from the organic layer by rotary evaporation and 14.8 grams (0.08 mole) of N-allyl-N-dimethoxyethyl acetamide was isolated as confirmed by NMR.

reactant | N-allyl-N-dimethoxyethyl amine | 0.10 mole, 48.3 grams | C(C=C)NCC(OC)OC | C7H15NO2
reactant | sodium hydroxide | 0.11 mole, 4.44 grams | [OH-].[Na+]
reactant | Acetyl chloride | 0.105 mole, 8.24 grams | C(C)(=O)Cl | C2H3ClO
solvent | Toluene | 50 grams | C1(=CC=CC=C1)C | C7H8
product | N-allyl-N-dimethoxyethyl acetamide | 0.08 mole, 14.8 grams | C(C=C)N(C(C)=O)CC(OC)OC | C9H17NO3
